US07067529B2
To a stirred solution of [1-(3-sec-butoxy-benzyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid (200 mg, 0.49 mmol) in dichloromethane (4 Ml) was added 0.2N diazomethane in diethyl ether solution (6 mL). The reaction mixture was stirred at room temperature for 15 hrs. The solvent was evaporated to afford of [1-(3-sec-butoxy-benzyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid methyl ester (200 mg, 96% yield) as a light yellow oil. The crude product was used without further purification.

reactant | [1-(3-sec-butoxy-benzyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid | 0.49 mmol, 200 mg | C(C)(CC)OC=1C=C(CC2=NC=C(C3=CC(=C(C=C23)OC)OC)CC(=O)O)C=CC1 | C24H27NO5
reactant | diazomethane | 0.2N | [N+](=[N-])=C | CH2N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | diethyl ether | 6 mL | C(C)OCC | C4H10O
product | [1-(3-sec-butoxy-benzyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid methyl ester | 200 mg, 96% yield | COC(CC1=CN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC(=CC=C1)OC(C)CC)=O | C25H29NO5
